US06037309
Iron powder (6.72 g), N,N-bis(3-hydroxypropyl)-4- nitrosoaniline (10 g) and hydrochloric acid(20 cm3) in methanol (120 cm3) were refluxed for 2 hrs. The resulting mixture was made alkaline with sodium carbonate, filtered and the solvent removed to leave N,N-bis(3-hydroxypropyl)-4-aminoaniline as a brown solid.

reactant | N,N-bis(3-hydroxypropyl)-4- nitrosoaniline | 10 g | OCCCN(C1=CC=C(C=C1)N=O)CCCO | C12H18N2O3
reactant | hydrochloric acid | 20 cm3 | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 120 cm3 | CO | CH4O
catalyst | Iron | 6.72 g | [Fe] | Fe
product | N,N-bis(3-hydroxypropyl)-4-aminoaniline | OCCCN(C1=CC=C(C=C1)N)CCCO | C12H20N2O2
